US04028356
In the manner given in Example 1, 7-chloro-2-hydrazino-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1-chloro-6-hydroxy-2-hexanone under nitrogen to give 7-chloro-2-[[2-chloro-1-(4-hydroxybutyl)ethylidene]hydrazino]-5-(2,6-difluoropheny1)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2F)F)C1 | C15H11ClF2N4
reactant | 1-chloro-6-hydroxy-2-hexanone | ClCC(CCCCO)=O | C6H11ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-[[2-chloro-1-(4-hydroxybutyl)ethylidene]hydrazino]-5-(2,6-difluoropheny1)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)CCCCO)C2=C(C=CC=C2F)F)C1 | C21H20Cl2F2N4O
